US05312826
A mixture of 2.56 g of (2S)-3-(2-thienyl)-2-(benzyloxycarbonylamino)propionic acid, 2.39 g of 4-benzyloxycarbonyl-5-(2-aminoethyl)oxazole.hydrobromide, 1.42 g of 1-hydroxybenzotriazole hydrate and 30 ml of dimethylformamide was cooled to -20° C., and 1.77 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide.hydrochloride was added thereto. After 10 minutes, 0.93 g of triethylamine was added to the mixture, and the temperature of the mixture was gradually returned to room temperature and the mixture was stirred overnight. The solvent was removed, and ethyl acetate was added to the residue. The mixture was washed and dried, and then the solvent was removed. The residue was purified by silica gel column chromatography (solvent: chloroform:ethyl acetate=19:1) to obtain 3.5 g of 4-benzyloxycarbonyl-5-{2-[N-((2S)-3-(2-thienyl)-2-(benzyloxycarbonylamino)propionyl)amino]ethyl}oxazole as syrup.

reactant | (2S)-3-(2-thienyl)-2-(benzyloxycarbonylamino)propionic acid | 2.56 g | S1C(=CC=C1)C[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C15H15NO4S
reactant | 4-benzyloxycarbonyl-5-(2-aminoethyl)oxazole.hydrobromide | 2.39 g | Br.C(C1=CC=CC=C1)OC(=O)C=1N=COC1CCN
reactant | 1-hydroxybenzotriazole hydrate | 1.42 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide.hydrochloride | 1.77 g | Cl.C(C)N=C=NCCCN(C)C
solvent | triethylamine | 0.93 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-benzyloxycarbonyl-5-{2-[N-((2S)-3-(2-thienyl)-2-(benzyloxycarbonylamino)propionyl)amino]ethyl}oxazole | 3.5 g | C(C1=CC=CC=C1)OC(=O)C=1N=COC1CCNC([C@H](CC=1SC=CC1)NC(=O)OCC1=CC=CC=C1)=O | C28H27N3O6S
